US07259177B2
tert-Butyl 2-[cis-3-(tert-butyldimethylsilanyloxymethyl)cyclohexylmethoxy]-2-methylpropionate
250 mg of tert-butyl [cis-3-(tert-butyidimethylsilanyloxymethyl)cyclohexyl-methoxy]acetate are dissolved in 10 ml of abs. tetrahydrofuran and cooled to −78° C. (dry ice/acetone bath). 1.70 ml of a 2M lithium diisopropylamide solution in tetrahydrofuran/hexane are then added dropwise. The solution is initially stirred at −78° C. for 20 min and then warmed to 0° C. (ice bath), and 950 mg of methyl iodide are added. The solution is stirred at 0° C. for 1 h. 1 ml of sat. NH4Cl solution and 10 ml of water are added, and the phases are separated. The aqueous phase is extracted with ethyl acetate. The combined organic phases are dried over MgSO4 and concentrated. The crude product is dissolved in 10 ml of abs. tetrahydrofuran and cooled to −78° C. (dry ice/acetone bath). 1.70 ml of a 2M lithium diisopropylamide solution in tetrahydrofuran/hexane are then added dropwise. The solution is initially stirred at −78° C. for 20 min and then warmed to 0° C. (ice bath), and 950 mg of methyl iodide are added. The solution is stirred at 0° C. for 1 h. 1 ml of sat. NH4Cl solution and 10 ml of water are added and the phases are separated. The aqueous phase is extracted with ethyl acetate. The combined organic phases are dried over MgSO4 and concentrated. This gives 220 mg of tert-butyl 2-[cis-3-(tert-butyldimethylsilanyloxymethyl)cyclo-hexylmethoxy]-2-methylpropionate as a light-yellow oil. TLC (heptane/ethyl acetate 4/1): Rf, starting material=0.66, Rf, product=0.80.

reactant | tert-butyl [cis-3-(tert-butyidimethylsilanyloxymethyl)cyclohexyl-methoxy]acetate | 250 mg | [Si](C)(C)(C(C)(C)C)OC[C@H]1C[C@H](CCC1)COCC(=O)OC(C)(C)C | C20H40O4Si
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | lithium diisopropylamide | 2M | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl iodide | 950 mg | CI | CH3I
reactant | NH4Cl | 1 ml | [NH4+].[Cl-]
solvent | tetrahydrofuran hexane | O1CCCC1.CCCCCC
solvent | water | 10 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tert-Butyl 2-[cis-3-(tert-butyldimethylsilanyloxymethyl)cyclohexylmethoxy]-2-methylpropionate | [Si](C)(C)(C(C)(C)C)OC[C@H]1C[C@H](CCC1)COC(C(=O)OC(C)(C)C)(C)C | C22H44O4Si
